US09034900B2
Step 1: 5-bromo-1-methyl-3-(trifluoromethyl)pyridin-2-one
To a solution of 5-bromo-3-(trifluoromethyl)pyridin-2-ol (6 g, 25 mmol) stirred at rt in THF (5 mL) was added NaH (1.5 g, 37 mmol, 60% in mineral oil). After stirring for 30 min, methyl iodide (7.1 g, 50 mmol) was added. After stirring at rt for 3 h, the reaction mixture was treated with water (100 mL) and extracted with EtOAc (100 mL×3). The combined organic layers were washed with brine (100 mL), dried over Na2SO4, filtered, and concentrated in vacuo to afford the title compound (6 g, 97%) as a tan solid. The solid was carried forward without any further purification. 1H NMR (CDCl3, 400 MHz) δ 7.79 (d, J=2.0 Hz, 1H), 7.65 (d, J=2.0 Hz, 1H), 3.60 (s, 3H). LCMS (M+H)+=256.

reactant | 5-bromo-3-(trifluoromethyl)pyridin-2-ol | 25 mmol, 6 g | BrC=1C=C(C(=NC1)O)C(F)(F)F | C6H3BrF3NO
reactant | NaH | 37 mmol, 1.5 g | [H-].[Na+]
reactant | methyl iodide | 50 mmol, 7.1 g | CI | CH3I
reactant | water | 100 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-bromo-1-methyl-3-(trifluoromethyl)pyridin-2-one | 6 g, 97% | BrC=1C=C(C(N(C1)C)=O)C(F)(F)F | C7H5BrF3NO
